US08080541B2
To a cooled solution of 355 mg (1.17 mmol) 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole in 4 ml THF were added at <10° C. drop-wise over 20 min 2.35 ml (4.7 mmol) 2-Methylmagnesium chloride solution in THF. The resulting brown solution was stirred at ambient temperature for 1 h, then quenched with saturated aqueous NH4Cl solution (cooling with ice bath) and extracted three times with tert-butyl methyl ether. The combined organic phases were washed three times with brine, dried over Na2SO4, filtered and evaporated. 2-(2-Ethyl-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole was obtained as yellow oil: MS (ISP): 286.1 ((M+H)+).

reactant | 2-(2-methoxy-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 1.17 mmol, 355 mg | COC1=C(C=CC(=C1C)C(F)(F)F)C=1OCC(N1)(C)C | C14H16F3NO2
reactant | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-(2-Ethyl-3-methyl-4-trifluoromethyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | C(C)C1=C(C=CC(=C1C)C(F)(F)F)C=1OCC(N1)(C)C | C15H18F3NO
